Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Taxol / lisinopril / Doxil
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, N/V
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ year old female with h.o ovarian cancer 
in ___ s/p TAH/BSO + SBR and intraperitoneal chemotherapy, and 
now with recurrence undergoing chemotherapy last cycle ___, 
and multiple prior SBOs last hospitalized last year, here with 
one day of abdominal pain and nausea and one episode of 
vomiting.
The patient states that she was in her usual state of health 
until yesterday when she started having abdominal pain, mostly 
in the periumbilical and lower abdomen. She vomited undigested 
food and bile once. her last BM was yesterday right after the 
pain started. has been obstipated. She came to the ED because 
the pain did not resolve. in the ED the CT showed high grade SBO 
with TP at the SB anastomosis site and SB wall edema c/f 
possible ischemia. Labs notable for lactate 0.7 and bicarb 24. 

 
Past Medical History:
consistent with ovarian cancer. 
- ___ optimal debulking surgery for stage IIIA ovarian
cancer, grade 3 serous
- ___ BRCA2 mutation (___)
- ___ Completed IP chemotherapy x 6 cycles
- ___ Asymptomatic rise in CA125
- ___ Doxil severe anaphylactic reaction requiring
hydrocortisone/benadryl/epinephrine with observation in the ER. 
- ___ C1 Carboplatin/Paclitaxel
- ___ PET-CT with resolution of mediastinal, mammary
lymphadenopathy, significant decrease in size and FDG avidity of
hepatic dome lesion 

PAST MEDICAL HISTORY:  
-ovarian CA, as above
- HTN
- L5-S1 disc herniation
- Sciatica
- Prepatellar bursitis
- ___ right breast biopsy benign
- History of SBOs

 
Social History:
___
Family History:
- Father ___ ca
- P-aunt breast and ovarian cancers
- Mother melanoma
- MGM colon ca
- maternal cousin- breast BRCA2+ 

 
Physical Exam:
Physical Exam on Admission:
Vitals:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, minimally TTP lower abdomen, no rebound
or guarding,
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused

Physical Exam on Discharge:
Vitals: 98.4 PO 140 / 88 L Sitting 82 16 97 Ra 
GEN: Awake, alert, pleasant and interactive.
CV: RRR
PULM: Clear to auscultation bilaterally. 
ABD: Soft, non-tender, non-distended.
EXT: Warm and dry. no edema. 

 
Pertinent Results:
___ 05:50AM BLOOD WBC-2.9* RBC-3.26* Hgb-10.0* Hct-30.6* 
MCV-94 MCH-30.7 MCHC-32.7 RDW-13.9 RDWSD-47.8* Plt ___
___ 01:48AM BLOOD Neuts-74.7* Lymphs-15.7* Monos-7.8 
Eos-1.1 Baso-0.2 Im ___ AbsNeut-4.09 AbsLymp-0.86* 
AbsMono-0.43 AbsEos-0.06 AbsBaso-0.01
___ 05:50AM BLOOD Glucose-123* UreaN-9 Creat-0.8 Na-139 
K-3.7 Cl-105 HCO3-23 AnGap-11
___ 01:48AM BLOOD ALT-11 AST-18 AlkPhos-50 TotBili-0.4
___ 05:50AM BLOOD Calcium-9.0 Phos-3.8 Mg-1.5*

CT ABD & PELVIS WITH CONTRAST ___:
IMPRESSION: 
1. Small-bowel obstruction, likely high-grade, due to 
stricturing at a small bowel anastomosis in the right pelvis.  
Edematous bowel with suggestion of decreased mural enhancement 
may suggest early ischemia.  No pneumatosis or evidence of 
perforation. 
2. Resolution of subcapsular hepatic mass.  Interval increase in 
trace 
perihepatic fluid is nonspecific. 

 
Brief Hospital Course:
This is a ___ year old female, with a PMH significant ovarian 
cancer s/p TAH/BSO, SBR (___), HTN, multiple SBOs in the past. 
She presented to the Emergency Department on ___ with 
abdominal pain and N/V. Upon arrival to ED, an abdomen/pelvis CT 
was done which showed a small bowel obstruction. Given findings, 
the patient was admitted with the plan for non-operative 
management of her SBO. She was placed on bowel rest: made NPO, 
given IVF, and serial abdominal exams were performed. On HD1, 
her abdomen was soft, non-tender with no c/o abdominal pain. The 
patient reported passing gas and having a bowel movement. Thus, 
she was started on a clear liquid diet, which she tolerated so 
she was advanced to a regular diet for lunch. She was ambulating 
independently and voiding without issue. At the time of 
discharge, the patient was doing well, afebrile, and 
hemodynamically stable. The patient received discharge teaching 
and follow-up instructions with understanding verbalized and 
agreement with the discharge plan. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 40 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
Please do not exceed 4gm in a 24 hour period.  
2.  Valsartan 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because you experienced abdominal 
pain and nausea/vomiting. You were found on CT imaging to have a 
small bowel obstruction. You were managed non-operatively and 
placed on bowel rest. You have since been tolerating a regular 
diet, had return of bowel function, ambulating independently and 
voiding without issue. Your pain has been well-controlled. You 
are now ready to be discharged home to continue your recovery. 
Please follow the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.Avoid driving or 
operating heavy machinery while taking pain medications.

 
Followup Instructions:
___